Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hyperkalemia, ___, fluid overload
 
Major Surgical or Invasive Procedure:
Right heart catheterization ___
Right heart catheterization ___
Tunneled dialysis line placement ___
EGD ___
Right heart catheterization and left heart catheterization 
___

 
History of Present Illness:
Patient is a ___ with history of EtOH cirrhosis (Child's C, 
MELD-Na 19, prior decompensation with ascites/HE/varices), 
dilated cardiomyopathy (EtOH related)/HFpEF (LVEF LVEF=55-60% 
___, recurrent epistaxis, and small intracranial hemorrhages 
who presents with findings of hyperkalemia and ___ on outpatient 
labs.  

Of note, patient was just recently hospitalized at ___ 
___ iso decreased Hb found on routine 
outpatient labs.  He was also incidentally found to have SBP.  
Hb was 6.6 on admission, downtrended to 6.0 despite transfusion. 
 No concern for GIB, he was having recurrent epistaxis ___. 

Hemolysis labs difficult to interpret in the setting of 
cirrhosis and transfusion, although LDH never significantly 
elevated.  Patient was managed with PPI and Carafate.  He did 
undergo EGD, which showed post-banding ulceration in the distal 
esophagus (s/p banding in late ___ and portal HTN 
gastropathy, no intervention was performed.  No RP bleed on CT 
A/P WO contrast, though there were several hyperdense foci 
within the right lower quadrant, likely within the lumen of the 
cecum, suspicious for GI bleeding.  Colonoscopy subsequently did 
not reveal any active bleeding, though there were
angioectasias (descending/sigmoid colon), varices (ascending 
colon, retum).  Patient was ultimately transfused 6U PRBCs, Hb 
7.0 at time of discharge.  Hospital course was otherwise notable 
for SBP on diagnostic paracentesis, patient completed a 5-day 
course of CTX, discharged on ppx ciprofloxacin.  He was also 
thought to be volume overloaded with known HFrEF, underwent 
diuresis with furosemide 40mg IV as needed.  

Patient was evaluated by Dr. ___ ___, noted to have 
increasing ascites and edema (plan to increase furosemide and 
spironolactone).  Given findings ___ and hyperkalemia on 
labwork, patient was instructed to present to the ___ ED for 
evaluation and management.             
 
In the ED, initial VS were: 97.8 58 136/54 16 98% RA     

ECG: Sinus bradycardia (58bpm), normal axis, TWIs (V1-V2, 
increased from prior study), no T wave elevations.  

Labs showed:
CBC 5.8>7.___.2<105 (MCV 102)
CBC 5.3>7.1/22.9<103 (MCV 103)
BMP 138/6.4/105/___/1.5
BMP ___
AST 50
ALT 25
ALP 112
Tbili 1.5
Lipase 93
Albumin 4.0  
Whole blood K 6.0, 5.9

Imaging showed:  
RUQUS ___
IMPRESSION: 
1. Echogenic liver consistent with steatosis. Other forms of 
liver disease including steatohepatitis, hepatic fibrosis, or 
cirrhosis cannot be excluded on the basis of this examination.  
2. Patent portal vein however with reversal of flow. 
3. Small volume ascites seen throughout the abdomen. Mild 
splenomegaly. 

Consults: Hepatology, recs to volume resuscitate and treat 
hyperkalemia as needed  

Patient received: 
___ 21:01 IV Insulin (Regular) for Hyperkalemia 10 units  

___ 21:01 IV Dextrose 50% 25 gm 
___ 21:01 IV Calcium Gluconate 2 g 
 
Transfer VS were: Afebrile 59 134/60 18 96% RA   

On arrival to the floor, patient recounts the history as above. 
He denies any acute complaints, has felt generally well since 
his recent discharge.  Patient does mention that he has been 
eating/drinking less than usual, mostly because he has been 
trying to adhere to his fluid restriction.  On review of 
systems,
patient does endorse increased ___ swelling bilaterally over the 
past several days.  No new SOB or chest pain, no calf pain. 
 
Past Medical History:
-Childs C alcohol cirrhosis c/b ascites, HE, and esophageal  
varices
-Alcohol cardiomyopathy
-Alcohol use disorder  
-Admission ___ with HE, course complicated by ___ (Cr 
peaked in mid 5s) due to over-diuresis
 
 
Social History:
___
Family History:
Mother with ovarian cancer, diabetes
Brother with colon cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
VS: 98.0 127/50 62 18 98 RA   
GENERAL: NAD, pleasant in conversation.  
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM.  
NECK: No appreciable JVP elevation. 
HEART: RRR, S1/S2, ___ systolic murmur heard throughout the 
precordium, no gallops or rubs  
LUNGS: Transmitted upper airway sounds, otherwise CTABL.  
ABDOMEN: Obese abdomen, nondistended, +BS, nontender in all 
quadrants, no rebound/guarding, no palpable hepatosplenomegaly.  
Abdominal fat pad biopsy site below umbilicus on the left 
remains dehisced (~1cm) with visualized granulation tissue and 
associated serous drainage, non-infected appearing.  
EXTREMITIES: WWP.  ___ pitting edema in the lower extremities 
b/l, L>R.   
PULSES: 2+ radial pulses bilaterally.  
NEURO: A&Ox3, moving all 4 extremities with purpose.  No 
asterixis.   

DISCHARGE PHYSICAL EXAM:
========================
VITALS: reviewed in ___     
GENERAL: NAD
HEENT: R sub-conjunctival hemorrhage w/ periorbital ecchymoses,
no active epistaxis 
HEART: RRR, S1/S2, ___ SEM throughout precordium, no friction
rub. 
CHEST: Right tunneled HD
LUNGS: CTAB, no rhonchi or crackles
ABDOMEN: NABS, soft, NT, ND, no rebound or guarding
EXTREMITIES: WWP. 3+ ___ bilaterally 
NEURO: A&Ox3. No asterixis. moves all four extremities 
 
Pertinent Results:
ADMISSION LABS
___ 12:56PM BLOOD WBC-5.8 RBC-2.38* Hgb-7.4* Hct-24.2* 
MCV-102* MCH-31.1 MCHC-30.6* RDW-20.9* RDWSD-77.6* Plt ___
___ 08:20PM BLOOD Neuts-70.6 Lymphs-8.7* Monos-12.9 Eos-6.8 
Baso-0.4 Im ___ AbsNeut-3.74 AbsLymp-0.46* AbsMono-0.68 
AbsEos-0.36 AbsBaso-0.02
___ 08:20PM BLOOD ___ PTT-29.8 ___
___ 12:56PM BLOOD UreaN-66* Creat-1.5* Na-138 K-6.4* Cl-105 
HCO3-17* AnGap-16
___ 08:20PM BLOOD ALT-25 AST-50* AlkPhos-112 TotBili-1.5
___ 10:40PM BLOOD LD(LDH)-280*
___ 08:20PM BLOOD Lipase-93*
___ 10:40PM BLOOD proBNP-3676*
___ 08:20PM BLOOD Albumin-4.0 Calcium-9.6 Phos-3.5 Mg-2.0
___ 10:40PM BLOOD Hapto-<10*
___ 08:29PM BLOOD K-6.0*
___ 10:49PM BLOOD K-5.9*

PERTINENT INTERVAL LABS
___ 06:46PM BLOOD VitB12-___* Folate->20 Hapto-<10*

___ 11:47AM URINE Color-Yellow Appear-Hazy* Sp ___
___ 11:47AM URINE Blood-NEG Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 11:47AM URINE RBC-1 WBC-3 Bacteri-NONE Yeast-NONE 
Epi-<1 TransE-<1
___ 11:47AM URINE CastHy-21*

___ 11:47AM URINE Hours-RANDOM UreaN-549 Creat-162 Na-<20 
K-65
___ 11:47AM URINE Osmolal-387
___ 09:30AM URINE Hours-RANDOM Creat-116 Na-<20 TotProt-41 
Prot/Cr-0.4*
___ 09:30AM URINE Osmolal-379
___ 01:02PM URINE Hours-RANDOM UreaN-903 Na-<20 K-31
___ 01:02PM URINE Osmolal-439
___ 12:06PM URINE Hours-RANDOM Na-LESS THAN 
___ 12:06PM URINE Osmolal-449

MICROBIOLOGY
------------------
- ___ URINE CULTURE NEGATIVE
- ___ CDIFF NEGATIVE 

IMAGING AND STUDIES
___ ABDOMEN US (COMPLETE)

1. Coarsened and nodular liver consistent with cirrhosis.
2. Patent portal vein however with reversal of flow.
3. Small volume ascites seen throughout the abdomen.  Mild 
splenomegaly.
 
___ CHEST (PORTABLE AP)
  
Heart size is enlarged and has a globular configuration, stable. 
There are no focal consolidations, pleural effusion, or 
pulmonary edema. There are no pneumothoraces.

___ TTE Report
 
Good image quality. Moderately dilated right ventricle with 
normal systolic function. At least moderate to severe tricuspid 
regurgitation. Moderate pulmonary hypertension. Increased right 
atrial pressure. Dynamic left ventricular systolic function. 
Compared with the prior TTE of (images not available for review) 
of ___ right ventricular systolic function may be 
slightly improved, left ventricle measures smaller. Other 
findings similar.

___ RIGHT HEART C.CATH 
   
Hemodynamic Comments: At entry, the mean RA was 36 mm Hg with V 
waves to 50 mm Hg on average. The RA and RV waveforms were very 
similar, consistent with significant tricuspid regurgitation. 
The mean PCW was 37 mm Hg with V waves to 57 mm Hg on average; 
PCW position was confirmed with an O2 saturation of 98%. The 
peak mean PCW was 40 mm Hg. The average PA pressure was 54/29/44 
mm Hg with peak PASP 60 mm Hg and the dicrotic notch in the PA 
tracing obscured by the PCW V wave. Using arterial oxygen 
saturation imputed from finger oxymetry, the calculated cardiac 
index was 8.2 L/min/m2. Using mean arterial pressure imputed 
from left NIBP, the calculated SVR was 240 dynes-sec/cm5. The 
calculated PVR was 32 dynes-sec/cm5 (0.4 ___. There was no 
oxymetric evidence of significant right-to-left or left-to-right 
shunting.
Impressions:
1. Severe biventricular diastolic heart failure.
2. Severe tricuspid regurgitation with ventricularization of the 
right atrial waveform.
3. Moderate pulmonary hypertension secondary to left ventricular 
diastolic heart failure.
4. Prominent PCW V waves reflected back into the pulmonary 
artery.
5. No oxymetric evidence of significant intra-cardiac shunting.
6. Elevated calculated cardiac index with low systemic vascular 
resistance consistent with peripheral shunting and/or 
septic/vasodilatory physiology.

Recommendations
1. Diuresis.
2. Consider Advanced Heart Failure Service consultation 
regarding management of right ventricular failure.

___ RIGHT HEART C.CATH 

RA V wave 44, mean 40
RV systolic 48
EDP 25
PA ___ mean 32
PCWP A wave 28, V wave 39, Mean 28

Impressions:
1. Elevated left and right heart filling pressures

___ CT HEAD WITHOUT CONTRAST 

IMPRESSION:  
  
Near resolution of a previously identified right frontal 
intraparenchymal 
hemorrhage (image 25, series 2).  No new hypoattenuated foci or 
findings 
concerning for new hemorrhage or ischemia. 

___ TUNNELED DIALYSIS LINE PLACEMENT

FINDINGS:  
  
Patent right internal jugular vein.  Final fluoroscopic image 
showing  
catheter with tip terminating in the right atrium. 
  
IMPRESSION:  
  
Successful placement of a  23cm tip-to-cuff length tunneled 
dialysis line.  The tip of the catheter terminates in the right 
atrium. The catheter is ready for use. 
  
RECOMMENDATION(S):  Venotomy site suture will need to be removed 
in ___ days. 

___ CT HEAD WITHOUT CONTRAST

IMPRESSION:  
  
No evidence for acute intracranial abnormalities.  Remnant of 
the prior right frontal parenchymal hemorrhage is now barely 
visible. 

___ CXR

IMPRESSION:  
  
In comparison with the study of ___, there has been 
placement of a 
hemodialysis catheter with its tip in the mid to lower SVC and 
no evidence of post procedure pneumothorax. Continued globular 
enlargement the cardiac silhouette with elevation of pulmonary 
venous pressure.  No acute focal pneumonia. 

___ LIVER/GALLBLADDER U/S

IMPRESSION:   
  
1. Patent hepatic vasculature with no evidence of portal vein 
thrombosis. 
2. Bidirectional portal venous flow. 
3. Cirrhotic liver with moderate ascites and splenomegaly. 
4. Cholelithiasis. 

___ EGD

Esophagus: 1 cord of grade II varices were seen in the mid 
esophagus. Scarring was noted in the distal esophagus consistent 
with prior banding. 

Stomach: Diffuse congestion, petechiae, and mosaic mucosal 
pattern of the mucosa was noted in the stomach fundus and body. 
These findings were compatible with portal hypertensive 
gastropathy.

Duodenum: Normal mucosa was noted in the whole examined 
duodenum.

___ SHOULDER X-RAY
  
FINDINGS:  
  
There is no fracture or dislocation.  There is mild to moderate 
AC joint 
degenerative change.  The glenohumeral joint is partially 
obscured by a 
right-sided central venous catheter.  Within these confines, the 
glenohumeral joint appears well apposition without significant 
degenerative change.  There is no abnormal soft tissue 
calcification or unexplained radiopaque foreign body. 
  
IMPRESSION:  
  
No fracture or dislocation.  Mild to moderate AC joint 
degenerative change. 

___ KUB

IMPRESSION:  
  
There is no radiopaque foreign body to suggest retained capsule. 
 Small and large bowel loops are normal caliber without evidence 
of obstruction.  There is no free air.  There is no pneumatosis. 


___ LEFT AND RIGHT HEART CATH

Coronary Anatomy
left main mild disease
LAD 50% mid, 60% diag
LCX 50% proximal
RCA 60-70% proximal

Impressions:
left main mild disease
LAD 50% mid, 60% diag
LCX 50% proximal
RCA 60-70% proximal

Markedly elevated filling pressures with prominent V waves on 
wedge tracing and evidence of right sided failure.

Pressures
RV 47 
EDP 25 
PA ___ mean 34 
PCW ___ mean 28

DISCHARGE LABS
==============
___ 05:58AM BLOOD WBC-6.0 RBC-2.34* Hgb-7.3* Hct-22.6* 
MCV-97 MCH-31.2 MCHC-32.3 RDW-19.4* RDWSD-62.6* Plt Ct-51*
___ 08:20PM BLOOD Neuts-70.6 Lymphs-8.7* Monos-12.9 Eos-6.8 
Baso-0.4 Im ___ AbsNeut-3.74 AbsLymp-0.46* AbsMono-0.68 
AbsEos-0.36 AbsBaso-0.02
___ 09:28PM BLOOD Hypochr-1+* Anisocy-2+* Poiklo-OCCASIONAL 
Macrocy-1+* Microcy-NORMAL Polychr-OCCASIONAL Tear Dr-OCCASIONAL
___ 05:58AM BLOOD Plt Ct-51*
___ 05:58AM BLOOD ___ PTT-28.0 ___
___ 05:58AM BLOOD Glucose-114* UreaN-56* Creat-3.1* Na-136 
K-4.3 Cl-97 HCO3-27 AnGap-12
___ 05:58AM BLOOD ALT-26 AST-52* AlkPhos-112 TotBili-1.7*
___ 05:42AM BLOOD CK-MB-2 cTropnT-0.13*
___ 05:58AM BLOOD Albumin-3.2* Calcium-8.5 Phos-3.3 Mg-2.3
 
Brief Hospital Course:
PATIENT SUMMARY:
================
___ with history of EtOH cirrhosis (Child's C, MELD 30, prior 
decompensations with HE, ascites, varices), dilated 
cardiomyopathy (EtOH related), recurrent epistaxis, and small 
intracranial hemorrhages who presented with findings of 
hyperkalemia and ___ on outpatient labs found to have volume 
overload by RHC, s/p Lasix gtt with rapidly rising BUN/Cr, now 
on HD with UF, and course further c/b anemia and possible 
NSTEMI.

TRANSITIONAL ISSUES:
==================
PLEASE DO NOT ADMIT THE PATIENT IF HE PRESENTS FOR TRANSFUSIONS 
TO THE EMERGENCY ROOM AS THIS IS NOT PER HIS GOALS OF CARE. 
CONSULT THE LIVER SERVICE AND ADMINISTER BLOOD AS NEEDED.
[ ] He had persistent GI blood loss anemia and epistaxis this 
admission. EGD notable for portal hypertensive gastropathy. This 
was likely from his coagulopathy, thrombocytopenia and uremia. 
He is being set up with the ___ here for future 
transfusions. He will be able to start this on ___ at ___, 
___, ___ floor, ___, 
___. Until then, he will have to go to the emergency room for 
transfusions. Hgb on discharge 7.3
[ ] He was intentionally NOT started on aspirin this admission 
given thrombocytopenia and high risk of IPH in the setting of 
possible CAA. Please prescribe with caution in the future. 
[ ] He was started on midodrine 5 mg TID prior to discharge in 
hopes of increasing SVR and thus reducing high output heart 
failure. He was thus intentionally not prescribed a beta blocker 
despite evidence of CAD.
[ ] He was started on dialysis and his discharge dialysis will 
be at ___ Dialysis ___, ___, 
___. Phone: ___. Nephrologist: Dr. 
___.
[ ] Weight on discharge 198lbs

ACUTE ISSUES:
============
# Renal Failure
# Hyperkalemia 
He presented after outpatient labs showed Cr elevated 2.0 from 
baseline 1.0-1.2, with associated hyperkalemia. Initially Cr did 
not improve with albumin, but after a combination of diuresis 
and albumin, trended back to baseline. However, patient's volume 
status did not improve and the decision was made to start Lasix 
gtt in order to augment diuresis. BUN and creatinine rose 
rapidly after starting Lasix gtt and BUN peaked at 196 and Cre 
4.5. Empiric treatment for HRS with midodrine and octreotide had 
no effect on kidney function. For management of both worsening 
uremia and volume status, the decision was made to start patient 
on HD with UF for volume management with hopes of improving 
volume status. He is scheduled for ___ dialysis on outpatient 
basis 

# EtOH Cirrhosis
# Volume Overload
Child's C, MELD-Na 19 on admission, prior decompensation with 
ascites/HE/varices. Patient had thorough workup for transplant 
candidacy during this admission. Due to volume overload on exam, 
cardiology recommended RH cath to evaluate hemodynamics given 
increase PASP seen on ECHO, and RHC confirmed extremely high 
filling pressures (R and L sided). Patient was diuresed as noted 
above and repeat RHC showed improved, though still elevated 
filling pressures. It was at that point that he started HD with 
UF in hopes of further improving volume status. Patient had a 
third RHC prior to discharge. This showed persistently elevated 
filling pressures, overall unchanged compared to prior RHC. 
Thus, despite HD with UF, patient has nearly identical pressures 
compared to before. Likely either due to lack of improvement in 
volume status (weight overall unchanged between second and third 
RHCs vs. intrinsic heart disease in the setting of liver failure 
(with vasodilation and thus high output HF). He will continue 
volume management with HD as an outpatient. He was ultimately 
turned down for transplant by the transplant committee due to 
his multiple medical comorbidities and his operative risk. 

# NSTEMI
He developed sudden onset chest discomfort, elevated troponin, 
and EKG changes during HD on ___. Presentation most consistent 
with demand ischemia (Type 2 NSTEMI). During final RHC, he also 
went cardiac catheterization to evaluate for CAD. This showed no 
evidence of flow-limited lesions with max 60% stenosis in 3 
major vessels. No further episodes of angina this admission. Per 
further discussions with cardiology, there was no indication 
that a higher hemoglobin transfusion threshold is indicated 
given overall mild CAD. He was transfused for Hgb goal of 7.0 
g/dL. 

# Coagulopathy 
# Macrocytic anemia
# History of AVMs
# Thrombocytopenia 
# GI Blood loss anemia
Patient required numerous blood product transfusions this 
admission. Etiology of anemia multifactorial. Partially GIB loss 
given EGD/colonoscopy in ___ showing both portal hypertensive 
gastropathy as well as vascular ectasias in the sigmoid, likely 
exacerbated by uremic platelet dysfunction. EGD with 1 cord of 
grade II varices and diffuse congestion, petechiae and mosaic 
mucosal pattern consistent with portal hypertension gastropathy 
which may be the source of bleeding. Repeat EGD ___ showed 1 
cord of grade II varices in the mid esophagus. Scarring was 
noted in the distal esophagus consistent with prior banding. 
Stomach with diffuse congestion, petechiae, and mosaic mucosal 
pattern compatible with portal hypertensive gastropathy. His 
coagulopathy was worsened from likely uremic platelet 
dysfunction in the setting of renal failure. As an outpatient, 
he will be set up with a pheresis center to provide him with 
blood transfusions if needed without hospitalization. 

# Epistaxis
Evaluated by ENT for recurrent epistaxis this admission. 
Underwent cauterization ___. Given Afrin as needed for recurrent 
bleeding. Felt to be due to underlying coagulopathy. He required 
DDAVP to stop uremic bleeding for this. 

# Possible Cerebral Amyloid Angiopathy
# Microbleeds on MRI
Patient noted to have spontaneous IPH with multiple microbleeds 
on MRI in ___. Neurology consulted at that time and felt to be 
consistent with possible cerebral amyloid angiopathy; unable to 
prognosticate however regarding the risks of future bleeding 
events. Patient noted to have periorbital ecchymoses this 
admission concerning for recurrent intracerebral bleed. However, 
2 repeat head CTs were both unrevealing and actually showed 
improvement in prior hemorrhage. Will need neurology follow up 
as an outpatient. Of note, all antiplatelet agents should be 
avoided if possible given persistent thrombocytopenia and 
concern for CAA as noted above.

CHRONIC ISSUES:
==============
# Poor Wound Healing 
Done as part of workup for possible amyloidosis (which was 
ultimately negative). S/p abdominal fat pad biopsy by ACS on 
___. No concern for communication with the peritoneal space or 
infection, ACS was consulted. Recommended ongoing dry dressing 
and felt there was good granulation tissue and would heal with 
secondary intention eventually. 

# Contact/HCP: ___ (sister) ___ 
# Code status: full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 200 mg PO QHS 
2. FoLIC Acid 1 mg PO DAILY 
3. Lactulose 30 mL PO QID 
4. Multivitamins 1 TAB PO DAILY 
5. Nicotine Patch 7 mg TD DAILY 
6. Rifaximin 550 mg PO BID 
7. Spironolactone 50 mg PO DAILY 
8. Sucralfate 1 gm PO QID 
9. Thiamine 100 mg PO DAILY 
10. Vitamin D ___ UNIT PO 1X/WEEK (FR) 
11. Ciprofloxacin HCl 500 mg PO DAILY 
12. Mupirocin Ointment 2% 1 Appl TP BID abdominal incision 
13. Furosemide 20 mg PO DAILY 
14. Nadolol 20 mg PO DAILY 
15. Omeprazole 40 mg PO DAILY 

 
Discharge Medications:
1.  Midodrine 5 mg PO TID 
RX *midodrine 5 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*0 
2.  Nephrocaps 1 CAP PO DAILY 
RX *B complex with C#20-folic acid [Nephrocaps] 1 mg 1 
capsule(s) by mouth daily Disp #*30 Capsule Refills:*0 
3.  Oxymetazoline 1 SPRY NU Q4H:PRN nose bleed Duration: 3 Days 
RX *oxymetazoline [12 Hour Nasal Relief Spray] 0.05 % 1 spray 
q4H nose bleed Disp #*1 Bottle Refills:*0 
4.  Ciprofloxacin HCl 500 mg PO DAILY  
5.  Docusate Sodium 200 mg PO QHS  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Lactulose 30 mL PO QID  
8.  Mupirocin Ointment 2% 1 Appl TP BID abdominal incision  
9.  Nicotine Patch 7 mg TD DAILY  
10.  Omeprazole 40 mg PO DAILY  
11.  Rifaximin 550 mg PO BID  
12.  Thiamine 100 mg PO DAILY  
13.  Vitamin D ___ UNIT PO 1X/WEEK (FR)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
========
Alcoholic cirrhosis
End-stage renal disease
Epistaxis
Anemia
Thrombocytopenia
Gastro-intestinal bleeding
Possible cerebral amyloid angiopathy
Non-ST segment myocardial infarction
Diastolic heart failure 

SECONDARY:
==========
Poor wound healing 
Culture-negative neutrocytic ascites 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

WHY DID YOU COME TO THE HOSPITAL?
- Your lab values from clinic showed that your kidneys were not 
working well. 

WHAT HAPPENED TO YOU DURING YOUR HOSPITAL STAY?
- We investigated your heart (called a 'right heart 
catheterization') and found that it had very high pressures 
because of extra fluid. 
- We used strong medications (called 'diuretics') to help move 
the extra fluid to your kidneys so you could urinate it out. 
- Unfortunately, the diuretics did not work as well as we hoped 
and your kidney function worsened. You were started on dialysis 
to help treat the kidney problems and removed the extra fluid.
- You had another right heart catheterization to look at the 
pressures in your heart and the pressures were still very high.
- You had lots of bleeding, mostly from your nose and required 
many blood transfusions. This is because your platelets are not 
working well because of your kidney failure. 

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
- Take all of your medications as prescribed.
- Follow up with your doctors as ___ below.
- Attend all of your scheduled dialysis appointments.
- Go to the ER immediately if you notice significant blood in 
your stool or from your nose or if you become lightheaded.
- Please weigh yourself every morning and call your doctor if 
your weight increases or decreases by more than 3 pounds per 
day. Your weight on discharge is 198lbs
- If you have another nose bleed, please apply pressure to your 
nose and lean forward. Hold for 45 minutes to an hour or as soon 
as the bleeding stops. You can also use the afrin nasal spray as 
directed to you previously. If the nose bleed does not stop, 
please return to the emergency room

We wish you the best in your recovery and it was a pleasure to 
care for you. 

Your ___ Care Team

 
Followup Instructions:
___